US06251911B1
A mixture of 59.8 g (351.2 mmol) of 3,3bis-methylmercapto-2-cyano-acrylonitrile, 56.3 g (351.4 mmol) of N-Boc-ethylenediamine [for preparation see: J. Org. Chem. 60, 4305 (1995)] and 500 ml of ethyl acetate is stirred under reflux for 3 hours and then concentrated in vacuo to approximately half its original volume. The reaction mixture is cooled to 0° C.; 300 ml of diethyl ether are added and the mixture is stirred for a further 0.5 hour and filtered. After washing the filter residue with diethyl ether, 3-[2-(Boc-amino)-ethylamino]-2-cyano-3-methylmercapto-acrylonitrile is obtained; m.p. 123-125° C.

reactant | 3,3bis-methylmercapto-2-cyano-acrylonitrile | 351.2 mmol, 59.8 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | N-Boc-ethylenediamine | 351.4 mmol, 56.3 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-(Boc-amino)-ethylamino]-2-cyano-3-methylmercapto-acrylonitrile | C(=O)(OC(C)(C)C)NCCNC(=C(C#N)C#N)SC | C12H18N4O2S
